### PR TITLE
[Merged by Bors] - feat: the Geck construction yields (finite-dimensional) semisimple Lie algebras

### PR DESCRIPTION
**Pull request by ocfnash**
Modulo the proof that `4` is not an eigenvalue of the Cartan matrix. This will be proved later.

---

I believe this is reviewable but I'm happy to split it up if requested.

- [x] depends on: #27598
- [x] depends on: #27600
- [x] depends on: #27605 
- [x] depends on: #28086
- [x] depends on: #28089

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean [hunk 1]
```diff
@@ -98,6 +96,42 @@ lemma h_eq_diagonal [DecidableEq ι] (i : b.support) :
     h i = .diagonal (Sum.elim 0 (P.pairingIn ℤ · i)) := by
   ext (j | j) (k | k) <;> simp [h, Matrix.diagonal_apply]
 
+omit [Finite ι] [IsDomain R] [CharZero R] in
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean]: It seems you need this line 6 times in a row. Does it make sense to slightly reorder and possibly have two sections?

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean [hunk 2]
```diff
@@ -98,6 +96,42 @@ lemma h_eq_diagonal [DecidableEq ι] (i : b.support) :
...
+  have h₀ : Injective (g ∘ diagonalLinearMap ι R R) := fun _ _ hd ↦ funext <| by simpa [g] using hd
+  have h₁ {d : ι → R} : diagonal (Sum.elim 0 d) = g (diagonalLinearMap ι R R d) := by
+    ext (i | i) (j | j) <;> simp [g]
+  have h₂ : range h = g '' (diagonalLinearMap ι R R ''
+    (range <| fun (i : b.support) j ↦ (P.pairingIn ℤ j i : R))) := by ext; simp [g, h_def]
+  simp_rw [h₁, h₂, span_image, ← map_comp, ← comp_apply (f := g), mem_map, LinearMap.coe_comp,
+    h₀.eq_iff, exists_eq_right]
+
+omit [Finite ι] [IsDomain R] [CharZero R] in
+lemma apply_sum_inl_eq_zero_of_mem_span_range_h
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean]:
```suggestion
lemma apply_sum_inl_eq_zero_of_mem_span_h
```
to mimic the name of the lemma above.

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean [hunk 3]
```diff
@@ -42,19 +45,14 @@ We comment on these as follows:
 There seems to be no known construction of a Lie algebra from a root system without first choosing
 a base: https://mathoverflow.net/questions/495434/
 
-## TODO
-* Lemma stating `LinearIndependent R h` (easy using `RootPairing.Base.cartanMatrix_nondegenerate`).
-* Instance stating `LieModule.IsIrreducible R (lieAlgebra b) (b.support ⊕ ι → R)`
-  (Lemma 4.2 from [Geck](Geck2017)). This will immediately yield that the Geck construction is
-  semisimple via `LieAlgebra.hasTrivialRadical_of_isIrreducible_of_isFaithful`.
-* Instance stating `((cartanSubalgebra b).comap (lieAlgebra b).incl).IsCartanSubalgebra`
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean:50]: This isn't done yet, right? Do you think we simply don't need it? Should it stick around as a TODO anyway?

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean [hunk 4]
```diff
@@ -134,9 +170,59 @@ def cartanSubalgebra [Fintype ι] [DecidableEq ι] :
...
+    h i ∈ cartanSubalgebra b :=
+  Submodule.subset_span <| mem_range_self i
+
+@[simp] lemma h_mem_cartanSubalgebra' [Fintype ι] [DecidableEq ι] (i : b.support) (hi) :
+    ⟨h i, hi⟩ ∈ cartanSubalgebra' b := by
+  simp [cartanSubalgebra']
+
+lemma h_mem_lieAlgebra [Fintype ι] [DecidableEq ι] (i : b.support) :
+    h i ∈ lieAlgebra b :=
+  LieSubalgebra.subset_lieSpan <| Or.inl <| Or.inl <| mem_range_self i
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean]:
```suggestion
  LieSubalgebra.subset_lieSpan <| by simp
```
to maintain the symmetry with the proofs below.

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean [hunk 5]
```diff
@@ -134,9 +170,59 @@ def cartanSubalgebra [Fintype ι] [DecidableEq ι] :
...
+variable (b) in
+@[simp]
+lemma span_range_h'_eq_top [Fintype ι] [DecidableEq ι] :
+    span R (range h') = (⊤ : Submodule R (cartanSubalgebra' b)) := by
+  rw [eq_top_iff]
+  rintro ⟨⟨x, -⟩, hx : x ∈ span R (range h)⟩ -
+  let g : cartanSubalgebra' b →ₗ[R] Matrix (b.support ⊕ ι) (b.support ⊕ ι) R :=
+    (lieAlgebra b).subtype ∘ₗ (cartanSubalgebra' b).subtype
+  have hg : g '' range h' = range h := by
+    rw [← image_univ, ← image_comp, image_univ, show g ∘ h' = h from rfl]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean]:
```suggestion
  have hg : g '' range h' = range h := (range_comp ..).symm
```

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean [hunk 6]
```diff
@@ -134,9 +170,59 @@ def cartanSubalgebra [Fintype ι] [DecidableEq ι] :
...
+  rw [← SetLike.mem_coe, ← (injective_subtype _).mem_set_image,
+      ← (injective_subtype _).mem_set_image, ← image_comp]
+  change x ∈ (span R (range h')).map g
+  rwa [map_span, hg]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean]: Or more aggressively (hiding the defeq abuse a tiny bit more):
```suggestion
  suffices x ∈ (span R (range h')).map g by
    rwa [← SetLike.mem_coe, ← (injective_subtype _).mem_set_image,
        ← (injective_subtype _).mem_set_image, ← image_comp]
  rwa [map_span, ← range_comp]
```

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean [hunk 7]
```diff
@@ -191,12 +277,145 @@ lemma lie_e_f_mul_ω [Fintype ι] (i j : b.support) :
...
+    {x : Matrix (b.support ⊕ ι) (b.support ⊕ ι) R} (hx : x ∈ lieAlgebra b) :
+    ωConj b x ∈ lieAlgebra b := by
+  induction hx using LieSubalgebra.lieSpan_induction with
+  | mem u hu =>
+    obtain (⟨i, rfl⟩ | ⟨i, rfl⟩ | ⟨i, rfl⟩) : (∃ j, h j = u) ∨ (∃ j, e j = u) ∨ (∃ j, f j = u) := by
+      simpa only [mem_union, mem_range, or_assoc] using hu
+    · rw [← neg_mem_iff]
+      exact LieSubalgebra.subset_lieSpan <| Or.inl <| Or.inl ⟨i, by simp [ω_mul_h, mul_assoc]⟩
+    · exact LieSubalgebra.subset_lieSpan <| Or.inr ⟨i, by simp [ω_mul_e, mul_assoc]⟩
+    · exact LieSubalgebra.subset_lieSpan <| Or.inl <| Or.inr ⟨i, by simp [ω_mul_f, mul_assoc]⟩
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean]:
```suggestion
      exact LieSubalgebra.subset_lieSpan <| by simp [ω_mul_h, mul_assoc]
    · exact LieSubalgebra.subset_lieSpan <| by simp [ω_mul_e, mul_assoc]
    · exact LieSubalgebra.subset_lieSpan <| by simp [ω_mul_f, mul_assoc]
```
if you wish

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean:50]: Indeed it is not yet done, and we do still want a proof (it's not very hard).

The reason I have removed this is that I believe that it follows slightly more generally: namely if we have a family of `sl2` triples generating a semi-simple Lie algebra, and satisfying the relations established in `RootSystem.GeckConstruction.Relations`.

Assuming I have this right, once this PR is merged, we should not have to work on the Geck construction files any more so I'd like to drop the `TODO`s.

File: Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/GeckConstruction/Basic.lean]: Good point.

The solution is to define `h` (and establish its basic API) before `e` and `f` instead of after. I have just pushed https://github.com/leanprover-community/mathlib4/pull/27237/commits/c93e07fa0c0235ed3e63e56f10797f0e74be315d which does this.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
